US05919769
To a solution of L-glutamic acid 1,5-dibenzyl ester p-toluenesulfonate (10.0 g), Boc-Ser (4.1 g) and TEA (2.0 g) in DMF (200 ml) are added with stirring WSC (5.0 g) and HOBt (4.0 g) under ice-cooling. The mixture is stirred at room temperature for 20 hours, and thereto is added ethyl acetate (200 ml). The mixture is washed successively with 1N hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution, dried, and concentrated under reduced pressure. The precipitated solid is collected by filtration, and washed with ether to give N-tert-butoxycarbonyl-L-seryl-L-glutamic acid 1,5-dibenzyl ester (9.7 g) as colorless crystals.

reactant | L-glutamic acid 1,5-dibenzyl ester p-toluenesulfonate | 10.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)CCC(=O)OCC1=CC=CC=C1)=O
reactant | Boc-Ser | 4.1 g | N([C@@H](CO)C(=O)O)C(=O)OC(C)(C)C | C8H15NO5
reactant | WSC | 5.0 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 4.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-tert-butoxycarbonyl-L-seryl-L-glutamic acid 1,5-dibenzyl ester | 9.7 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CO)=O)CCC(=O)OCC1=CC=CC=C1)=O | C27H34N2O8
